US08012976B2
8-(4-Fluorophenyl)-9-(4-methyl-4H-1,2,4-triazol-3-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 2-(4-fluorophenyl)-3-(4-methyl-4H-1,2,4-triazol-3-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (120 mg) in 85% hydrazine monohydrate (2 mL) and methanol (5 mL) was stirred at room temperature for 4 h. Then the solution was evaporated, the crude product was purified by prep-HPLC to obtain the title compound as a white solid (20 mg, yield 18%). LC-MS (ESI) m/z: 363 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 3.50 (s, 3H), 4.83-4.86 (d, J=11.6 Hz, 1H), 5.00-5.03 (d, J=11.6 Hz, 1H), 7.12-7.19 (m, 3H), 7.39-7.42 (m, 2H), 7.47-7.51 (m, 2H), 7.60-7.64 (t, J=8 Hz, 1H), 8.31 (s, 1H), 12.24 (s, 1H).

reactant | ethyl 2-(4-fluorophenyl)-3-(4-methyl-4H-1,2,4-triazol-3-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 120 mg | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=NN=CN1C)=O)C(=O)OCC | C21H19FN4O3
reactant | hydrazine monohydrate | 2 mL | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 8-(4-Fluorophenyl)-9-(4-methyl-4H-1,2,4-triazol-3-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 20 mg, yield 18% | FC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=NN=CN1C | C19H15FN6O
